US07491722B2
3-(3-Oxo-butyryl)-benzoic acid methyl ester
A solution of dimethyl isophthalate (12 g, 61.85 mmole) and acetone (5 mL, 68 mmole) in a mixture of toluene/dimethoyethane (90 mL/30 mL) was added to a suspension of NaH 60% (2.97 g, 74.23 mmole) in dry toluene (30 mL) under argon. The mixture was heated at 100° C. for 4 hours. The reaction mixture was cooled to rt and 25 mL of water were added. The mixture was poured into water (250 mL) and the pH was adjusted to 3-4 with HCl 2N. The aqueous mixture was extracted with ethyl acetate (2×250 mL), washed with brine, dried over sodium sulphate and evaporated to afford a yellow solid which was purified by column cromatography (n-Hex/EtOAc 9:1 to 8:2) to afford the title compound (1.78 g, 11% yield) as a yellow solid.

reactant | dimethyl isophthalate | 61.85 mmole, 12 g | C(C1=CC(C(=O)OC)=CC=C1)(=O)OC | C10H10O4
reactant | acetone | 68 mmole, 5 mL | CC(=O)C | C3H6O
reactant | NaH | 74.23 mmole, 2.97 g | [H-].[Na+]
reactant | HCl | 2N | Cl | ClH
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 250 mL | O | H2O
solvent | water | 25 mL | O | H2O
product | 3-(3-Oxo-butyryl)-benzoic acid methyl ester | 1.78 g, 11% yield | COC(C1=CC(=CC=C1)C(CC(C)=O)=O)=O | C12H12O4
